US07407961B2
A mixture of 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone (100 mg), morpholine (113 mg), and NMP (1.0 ml) was heated at 150° C. with stirring for 1 day. After cooling, EtOAc and water were poured into the mixture, and the organic layer was separated, washed with water and brine, and dried over MgSO4. The solvent was removed under reduced pressure, and the residue was recrystallized from MeOH-IPE and dried in vacuo to give 5-[5-amino-6-(4-morpholinyl)-3-phenyl-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone (84 mg).

reactant | 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone | 100 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C18H17BrN4O
reactant | morpholine | 113 mg | N1CCOCC1 | C4H9NO
reactant | NMP | 1.0 ml | CN1CCCC1=O | C5H9NO
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-[5-amino-6-(4-morpholinyl)-3-phenyl-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone | 84 mg | NC=1N=C(C(=NC1N1CCOCC1)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C22H25N5O2
